US08283095B2
Synthesis of butanediol bis(3-mercaptobutyrate) (BDMB)
In a 300 ml egg plant type flask, 20 g (222 mmol) of butanediol (available from Wako Pure Chemical Industries, Ltd.), 58.7 g (488 mmol) of 3-mercaptobutanoic acid (available from Yodo Chemical Co., Ltd.), 2.78 g (14.6 mmol) of p-toluenesulfonic acid monohydrate (available from Junsei Chemical Co., Ltd.) and 100 g of toluene (available from Junsei Chemical Co., Ltd.) were placed, and a Dean-Stark device and a cooling tube were installed. The contents in the flask were heated at an oil bath temperature of 140° C. with stirring. After 4 hours from the initiation of reaction, the reaction solution was allowed to cool, washed with ion-exchanged water and then neutralized with a saturated sodium hydrogencarbonate aqueous solution. The resulting solution was further washed with ion-exchanged water three times and then subjected to dehydration-drying using anhydrous magnesium sulfate (available from Junsei Chemical Co., Ltd.). Next, toluene was distilled off, and the remainder was subjected to column chromatography by a silica gel to perform purification of BDMB. As the silica gel, Wako gel C-200 (available from Wako Pure Chemical Industries, Ltd.) was used, and as the elution solvent, n-hexane/acetone (7/1 by volume) was used. The BDMB obtained by purification was a colorless transparent liquid, and the yield was 31.1 g (48%).

reactant | butanediol | 222 mmol, 20 g | C(CCC)(O)O | C4H10O2
reactant | 3-mercaptobutanoic acid | 488 mmol, 58.7 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 14.6 mmol, 2.78 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | butanediol bis(3-mercaptobutyrate) | SC(CC(=O)OC(CCC)OC(CC(C)S)=O)C | C12H22O4S2
